* source PROIECT-SIM
R_R6         N115986 VIN  1k TC=0,0 
R_R8         0 N115996  10k TC=0,0 
X_D4         N115980 N116618 LED PARAMS: IS=2.6404e-027 RS=2  BV=5 IBV=10e-6   
+       
R_R21         N115996 N116600  10 TC=0,0 
R_R20         N115652 N115486  82 TC=0,0 
Q_Q14         N116042 N115996 N115864 QBC856B 
Q_Q9         N116038 N116042 N115980 QBC846B 
R_R11         N116618 N115980  330 TC=0,0 
Q_Q18         N115768 N115658 N115486 QBC856B 
C_C1         N116038 N115868  47p  TC=0,0 
R_R14         N116694 N116688  10k TC=0,0 
R_R15         N116600 N116590  10 TC=0,0 
R_R17         N115868 N115996  1k TC=0,0 
Q_Q8         N115868 N116038 N115980 QBC846B 
R_R2         N115666 N115486  1k TC=0,0 
R_R1         N115658 N115486  51 TC=0,0 
Q_Q16         N115868 N115768 N115658 QBC856B 
X_D5         N115662 N115486 LED PARAMS: IS=2.6404e-027 RS=2  BV=5 IBV=10e-6   
+       
R_R5         N116134 N115808  510 TC=0,0 
R_R12         N115662 N115486  330 TC=0,0 
Q_Q17         N115980 N116342 N115808 QBC856B 
R_R4         N115980 N115768  22k TC=0,0 
Q_Q10         N116042 N116042 N115980 QBC846B 
Q_Q12         N116590 N116694 0 QBC846B 
R_R23         0 VOUT  22 TC=0,0 
R_R9         N115980 N116342  1k TC=0,0 
Q_Q2         N115486 N115666 N115808 QBC846B 
Q_Q13         N116038 N115986 N115864 QBC856B 
R_R22         VOUT N116134  68 TC=0,0 
R_R18         N1156781 N115652  220 TC=0,0 
Q_Q15         N115864 N115768 N1156781 QBC856B 
V_V1         N116688 0 0
V_V2         0 N116618 11
V_V3         N115662 0 11
V_V4         VIN 0  
+SIN 0 10m 1k 0 0 0
X_U5         N115666 N115868 1N4148 
X_U6         N115868 N116342 1N4148 
